US05608056
To a solution of 2-bromopyridine (21.9 g) in tetrahydrofuran (310 ml) was added dropwise n-butyl lithium (1.65N) in hexane (78 ml) under -60° C. After stirring for 15 minutes, (2S,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)-2-formylpyrrolidine (31 g) was added dropwise under -60° C. After stirring for 30 minutes, the reaction mixture was quenched with water and extracted three times with ethyl acetate. The combined organic layer was washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was column chromatographed on silica gel to give 1-{(2S,4R)-1-allyloxycarbonyl-4-(t-butyldimethyl-silyloxy) pyrrolidin-2-yl}-1-(pyridin-2-yl)methanol (13.3 g).

reactant | 2-bromopyridine | 21.9 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyl lithium | 1.65N | C(CCC)[Li]
reactant | (2S,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)-2-formylpyrrolidine | 31 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C=O | C15H27NO4Si
solvent | tetrahydrofuran | 310 ml | O1CCCC1 | C4H8O
solvent | hexane | 78 ml | CCCCCC | C6H14
product | 1-{(2S,4R)-1-allyloxycarbonyl-4-(t-butyldimethyl-silyloxy) pyrrolidin-2-yl}-1-(pyridin-2-yl)methanol | 13.3 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(O)C1=NC=CC=C1 | C20H32N2O4Si
